US04728645
A solution of 1.1 g of 5-(p-cyanophenyl)-3-ethoxycarbonyl-imidazo[1,5-a]pyridine in 30 ml of ethanol is hydrogenated with 0.1 g of 10% Pd on charcoal at 1 bar for 2 h, filtered and evaporated to dryness. The resulting oil is partitioned between water and ethyl acetate. The organic phase is separated, dried over sodium sulfate and evaporated. The residue is chromatographed on 40 g of silica gel with ethyl acetate to yield 5-(p-cyanophenyl)-3-ethoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine.

reactant | 5-(p-cyanophenyl)-3-ethoxycarbonyl-imidazo[1,5-a]pyridine | 1.1 g | C(#N)C1=CC=C(C=C1)C1=CC=CC=2N1C(=NC2)C(=O)OCC | C17H13N3O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd on charcoal | 0.1 g | [Pd] | Pd
product | 5-(p-cyanophenyl)-3-ethoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C(=NC2)C(=O)OCC | C17H17N3O2
